US05051508
1-(2-Methylphenyl)-4-chloro-6-methylpyrrolo[3,2-c]quinoline (1.0 g) and ethanolamine (3.0 g) were heated to 150° C. for 3 hours. Chromatography (silica gel, 2% methanolic ammonia in dichloromethane) and recrystallisation from ethyl acetate/petroleum ether yielded 1-(2-methylphenyl)-4-(2-hydroxyethylamino)-6methylpyrrolo[3,2-c]quinoline (0.78 g), m.p. 187°-188°.

reactant | 1-(2-Methylphenyl)-4-chloro-6-methylpyrrolo[3,2-c]quinoline | 1.0 g | CC1=C(C=CC=C1)N1C=CC=2C(=NC=3C(=CC=CC3C21)C)Cl | C19H15ClN2
reactant | ethanolamine | 3.0 g | C(O)CN | C2H7NO
product | 1-(2-methylphenyl)-4-(2-hydroxyethylamino)-6methylpyrrolo[3,2-c]quinoline | 0.78 g | CC1=C(C=CC=C1)N1C=CC=2C(=NC=3C(=CC=CC3C21)C)NCCO | C21H21N3O
